US06426345B1
The mixture of 2-(2-nitrobenzyl)-3-oxo-4-phenyl-3,4-dihydropyrido[2,3-b]pyrazine (1.39 g), iron (2.17 g) and acetic acid (1.16 g) in ethanol (15 ml) was refluxed for 3 hours. The reaction mixture was cooled and filtered. To the filtrate was added saturated sodium hydrogencarbonate solution, and extracted with ethyl acetate. The organic layer was dried and evaporated. The crude product was purified by silica column chromatography to obtain 2-(2-aminobenzyl)-3-oxo-4-phenyl-3,4-dihydropyrido[2,3-b]pyrazine (120 mg).

reactant | 2-(2-nitrobenzyl)-3-oxo-4-phenyl-3,4-dihydropyrido[2,3-b]pyrazine | 1.39 g | [N+](=O)([O-])C1=C(CC2=NC3=C(N(C2=O)C2=CC=CC=C2)N=CC=C3)C=CC=C1 | C20H14N4O3
reactant | acetic acid | 1.16 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | iron | 2.17 g | [Fe] | Fe
product | 2-(2-aminobenzyl)-3-oxo-4-phenyl-3,4-dihydropyrido[2,3-b]pyrazine | 120 mg | NC1=C(CC2=NC3=C(N(C2=O)C2=CC=CC=C2)N=CC=C3)C=CC=C1 | C20H16N4O
